US06441163B1
L-DM1-TPA (6, 2 mg 0.002 mmol) was dissolved in dimethylacetamide (0.25 mL), to which N-hydroxysulfosuccinimide sodium salt (1.0 mg, 0.0046 mmol) and dicyclohexylcarbodiimide (1.0 mg, 0.0048 mmol) were added. After 3 hours, 0.5 mL of diisopropyl alcohol was added and the resulting precipitate was removed by filtration. HPLC analysis (Vydac C-18 column, 10×250 C18 column, 30° C., flow rate 4.75 mL/min, 50 mM triethylammonium formate pH 3.8 buffer with a linear methanol gradient (30% to 90% over 30 minutes) of the filtrate showed two major peaks, one for unreacted L-DM1-TPA at 22 min and one for L-DM1-TPA sulfosuccinimidyl ester at 19 min. The compound eluting at 19 min was isolated and analyzed by mass spectrometry showing that it had the expected peak consistent with the disodiated molecular ion (M++2Na) of 3a, m/e 1091.4. Further fragmentation of the 1091.4 ion gave predictable daughter ions, m/e 1073.4 (M++2Na—H2O ), 874.4 (M++2Na-sodiated N-hydroxysulfosuccinimide).

reactant | N-hydroxysulfosuccinimide sodium salt | 0.0046 mmol, 1.0 mg | [Na].ON1C(C(CC1=O)S(=O)(=O)O)=O
reactant | dicyclohexylcarbodiimide | 0.0048 mmol, 1.0 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylacetamide | 0.25 mL | CC(=O)N(C)C | C4H9NO
product | N-hydroxysulfosuccinimide | ON1C(C(CC1=O)S(=O)(=O)O)=O | C4H5NO6S
